US07838675B2
5-cyano-N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-2-hydroxy-1-methylethoxy]pyrimidin-4-yl}furan-2-sulfonamide
To a solution of 5-cyano-N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-1-methyl-2-(triphenylmethyloxy)ethoxy]pyrimidin-4-yl}furan-2-sulfonamide (the product of step ii) (0.15 g) in methanol (5 mL) was added para-toluenesulfonic acid hydrate (39 mg) and anisole (0.23 mL). After stirring at room temperature for 5 h, H2O (5 mL) was added and the mixture extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine (10 mL), dried (MgSO4), filtered and evaporated to dryness in vacuo. The resulting crude solid was purified by reverse phase HPLC (75% to 5% gradient of 0.1% aqueous ammonium acetate in acetonitrile as eluent) to give the title compound as a white solid. Yield: 20 mg.

reactant | 5-cyano-N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-1-methyl-2-(triphenylmethyloxy)ethoxy]pyrimidin-4-yl}furan-2-sulfonamide | C(#N)C1=CC=C(O1)S(=O)(=O)NC1=NC(=NC(=C1)O[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)SCC1=C(C(=CC=C1)F)F | C38H30F2N4O5S2
reactant | para-toluenesulfonic acid hydrate | 39 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | anisole | 0.23 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | H2O | 5 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 5-cyano-N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-2-hydroxy-1-methylethoxy]pyrimidin-4-yl}furan-2-sulfonamide | C(#N)C1=CC=C(O1)S(=O)(=O)NC1=NC(=NC(=C1)O[C@@H](CO)C)SCC1=C(C(=CC=C1)F)F | C19H16F2N4O5S2
